datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCCC[NH2+]CCC(=O)[O-:10].CCn1nnnc1CC(=O)[O:21][H:20]>>CCCC[NH2+]CCC(=O)[O:10][H:20].CCn1nnnc1CC(=O)[O-:21] 10=20;20,21=21",
"C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(C#N)C=C2)[H:20])=C1.O=C([O-])C[O-:10]>>C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(C#N)C=C2)=C1.O=C([O-])C[O:10][H:20] 10=20;20,21=21",
"O=[N+]([O-])c1cccc2c1c(NCCO)c1ccccc1[n:10]2.c1csc(C2CCC[NH+:21]2[H:20])c1>>O=[N+]([O-])c1cccc2c1c(NCCO)c1ccccc1[n+:10]2[H:20].c1csc(C2CCC[NH:21]2)c1 10=20;20,21=21",
"CC(C)(C)n1cc[n:10]c1.Cc1ccc(S(=O)(=O)[N:21](C(=O)OC(C)(C)C)[H:20])cc1>>CC(C)(C)n1cc[n+:10]([H:20])c1.Cc1ccc(S(=O)(=O)[N-:21]C(=O)OC(C)(C)C)cc1 10=20;20,21=21",
"COc1cccc(/C(c2ccccc2)=[NH+:21]\[H:20])c1.Cc1ccc2c(c1)NCC[NH:10]2>>COc1cccc(C(c2ccccc2)=[NH:21])c1.Cc1ccc2c(c1)NCC[NH+:10]2[H:20] 10=20;20,21=21",
"CCSC(C)[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(Cl)C([N+](=O)[O-])=C2)[H:20])=C1>>CCSC(C)[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(Cl)C([N+](=O)[O-])=C2)=C1 10=20;20,21=21",
"C[C@@H]1[C@@H](N)[C@H]1[NH2:10].N#Cc1ccc(C(=O)[O:21][H:20])cc1>>C[C@@H]1[C@@H](N)[C@H]1[NH2+:10][H:20].N#Cc1ccc(C(=O)[O-:21])cc1 10=20;20,21=21",
"C[n+]1cccc(C(=O)[O:21][H:20])c1.O=C(c1cccc2ccccc12)[O-:10]>>C[n+]1cccc(C(=O)[O-:21])c1.O=C(c1cccc2ccccc12)[O:10][H:20] 10=20;20,21=21",
"CC(=O)c1ccc(/N=N/c2c(N)[nH][n:10]c2N)cc1.NC(=O)CC[C@H](N)C(=O)N[C@@H](CCC(=O)[O:21][H:20])C(=O)O>>CC(=O)c1ccc(/N=N/c2c(N)[nH][n+:10]([H:20])c2N)cc1.NC(=O)CC[C@H](N)C(=O)N[C@@H](CCC(=O)[O-:21])C(=O)O 10=20;20,21=21",
"CN(C(=O)c1ccccc1)c1cc[n+:21]([H:20])cc1.O=C(C1CCCCC1)[O-:10]>>CN(C(=O)c1ccccc1)c1cc[n:21]cc1.O=C(C1CCCCC1)[O:10][H:20] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1c[nH]c(C(c2ncc[nH]2)[NH2:10])n1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1c[nH]c(C(c2ncc[nH]2)[NH2+:10][H:20])n1 10=20;20,21=21",
"CC1=CC([C:21](C)([N+](=O)[O-])[H:20])=CC=C1.[OH-:10]>>CC1=CC([C-:21](C)[N+](=O)[O-])=CC=C1.[OH:10][H:20] 10=20;20,21=21",
"CS(=O)(=O)c1ccc(S(=O)(=O)[N:21](Cc2ccccc2)[H:20])cc1.Cc1c([N+](=O)[O-])c(NCCC[NH+](C)C)c2ccccc2[n:10]1>>CS(=O)(=O)c1ccc(S(=O)(=O)[N-:21]Cc2ccccc2)cc1.Cc1c([N+](=O)[O-])c(NCCC[NH+](C)C)c2ccccc2[n+:10]1[H:20] 10=20;20,21=21",
"[H:20][OH:21].C1CC2=N[N+](=[C-:10]N2[C@H]1CC3=CC=CC=C3)C4=CC=CC=C4>>[H:20][C:10]1=[N+](N=C2N1[C@H](CC2)CC3=CC=CC=C3)C4=CC=CC=C4.[OH-:21] 10=20;20,21=21",
"CC1CC(=O)N([O-:10])C1(C)C.COC(=O)[C@H]1[C@H]2CC[C@@H](C[C@H]1OC(=O)c1ccccc1)[N+:21]2(C)[H:20]>>CC1CC(=O)N([O:10][H:20])C1(C)C.COC(=O)[C@H]1[C@H]2CC[C@@H](C[C@H]1OC(=O)c1ccccc1)[N:21]2C 10=20;20,21=21",
"C(\C1c2ccccc2-c2ccccc21)=[O+:21]\[H:20].O=Nc1c([O-:10])ccc2ncsc12>>C(C1c2ccccc2-c2ccccc21)=[O:21].O=Nc1c([O:10][H:20])ccc2ncsc12 10=20;20,21=21",
"C1CCC(C2=[N+:21]([H:20])CCC2)CC1.Cc1cnc2c(ccc3cc(C)c[n:10]c32)c1>>C1CCC(C2=[N:21]CCC2)CC1.Cc1cnc2c(ccc3cc(C)c[n+:10]([H:20])c32)c1 10=20;20,21=21",
"CC(=O)Nc1ccc(S(=O)(=O)[N:21](c2nccs2)[H:20])cc1.O=C([O-])CCC[NH2:10]>>CC(=O)Nc1ccc(S(=O)(=O)[N-:21]c2nccs2)cc1.O=C([O-])CCC[NH2+:10][H:20] 10=20;20,21=21",
"Clc1cccc([O-:10])c1.OCc1nc2ncncc2[n:21]1[H:20]>>Clc1cccc([O:10][H:20])c1.OCc1nc2ncncc2[n-:21]1 10=20;20,21=21",
"C[NH:10]CCCN.N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>C[NH+:10](CCCN)[H:20].N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"Cc1ccc([N+](C)(C)C)cc1[O-:10].O=C1Oc2cc([O:21][H:20])ccc2C=C1c1nc2cc(Cl)ccc2o1>>Cc1ccc([N+](C)(C)C)cc1[O:10][H:20].O=C1Oc2cc([O-:21])ccc2C=C1c1nc2cc(Cl)ccc2o1 10=20;20,21=21",
"C1COCCOCc2nc([n-:10]n2)COCCOCCO1.c1coc(CNCC[NH+:21](Cc2ccco2)[H:20])c1>>C1COCCOCc2nc([n:10]([H:20])n2)COCCOCCO1.c1coc(CNCC[NH:21]Cc2ccco2)c1 10=20;20,21=21",
"[H:20][NH+:21]1CCOCC1.C1=C(C=C(C(=C1)[CH-:10]C#N)[N+](=O)[O-])[N+](=O)[O-]>>[H:20][CH:10](C#N)C1=CC=C(C=C1[N+](=O)[O-])[N+](=O)[O-].C1COCC[NH:21]1 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.c1ccc2c3c([nH]c2c1)C[NH:10]CC3>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.c1ccc2c3c([nH]c2c1)C[NH+:10]([H:20])CC3 10=20;20,21=21",
"NCCC[NH2:10].OCC1=CC[N+:21]2([H:20])CC[C@@H](O)[C@@H]12>>NCCC[NH2+:10][H:20].OCC1=CC[N:21]2CC[C@@H](O)[C@@H]12 10=20;20,21=21",
"CC1=C(CC(C)[NH:10]CC(O)c2ccc(Cl)cc2)CCC1(C)C.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC1=C(CC(C)[NH+:10](CC(O)c2ccc(Cl)cc2)[H:20])CCC1(C)C.O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CCc1cc(/N=N/c2ccc([N+:21](C)(C)[H:20])cc2)ccc1C.c1ccc2c[n:10]ncc2c1>>CCc1cc(/N=N/c2ccc([N:21](C)C)cc2)ccc1C.c1ccc2c[n+:10]([H:20])ncc2c1 10=20;20,21=21",
"COc1cc2c(cc1[O:21][H:20])OC(=O)C=C2.COc1ccc(-c2ncc(-c3ccc([NH2:10])cc3)o2)cc1>>COc1cc2c(cc1[O-:21])OC(=O)C=C2.COc1ccc(-c2ncc(-c3ccc([NH2+:10][H:20])cc3)o2)cc1 10=20;20,21=21",
"CCCOC(=O)c1ccc([O-:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCCOC(=O)c1ccc([O:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1.O=C([O-])[C@H]1CCC[C@@H](C(=O)[O-])[NH:10]1>>C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1.O=C([O-])[C@H]1CCC[C@@H](C(=O)[O-])[NH+:10]1[H:20] 10=20;20,21=21",
